US08975256B2
8-Hydroxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 3-1)
Lithium aluminium hydride (26.0 mg, 0.64 mmol) was suspended in anhydrous tetrahydrofuran (0.5 mL) under nitrogen atmosphere. An anhydrous tetrahydrofuran solution (1.5 mL) of 8-methoxycarbonyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 2-1, 108 mg, 0.32 mmol) was added thereto at 0° C., and stirred for 3 hours at the same temperature. After ethyl acetate (3 mL) and water (3 mL) were added dropwise successively, ethyl acetate (30 mL), water (30 mL) and 1N aqueous hydro chloride solution (5 mL) were added thereto, and the mixture was partitioned. After the water layer was extracted with ethyl acetate (20 mL), the organic layer was combined. The organic layer was washed with water (50 mL, 2 times) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (61.0 mg) as a pale yellow amorphous product. (Yield 61%)

reactant | Lithium aluminium hydride | 0.64 mmol, 26.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-methoxycarbonyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | COC(=O)C=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=CC=C1)OC | C19H20N2O4
reactant | hydro chloride | 1N, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 8-Hydroxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 61.0 mg, Yield 61% | OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=CC=C1)OC | C18H20N2O3
